US04839365
To a solution of 318.0 mg (0.800 mmol) of 1-butyryloxymethyl-2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole (Ib-6) in 30 ml of CHCl3 was added 224.3 mg (1.04 mmol) of 80% m-CPBA at -10° to -15 ° C., and the mixture was stirred for 1 hr. To the solution were added 3 ml of saturated aqueous NaHCO3 and 0.6 ml of 10% aqueous sodium sulfite. After bringing back to room temperature, the solution was mixed with water and extracted with CHCl3. After drying CHCl3 layer over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, whereby brown viscous liquid was obtained. After silica gel column chromatography, the crystals were dispersed with ether, followed by filtration and washed with ether, whereby 169.8 mg (Yield : 51.3%) of the objective compound (Ic-12), 1-butyryloxymethyl-2-[(thieno[2, 3-c]pyridin7-yl)methylsulfinyl]benzimidazole was obtained as crystals.

reactant | 1-butyryloxymethyl-2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole | 0.800 mmol, 318.0 mg | C(CCC)(=O)OCN1C(=NC2=C1C=CC=C2)SCC=2N=CC=C1C2SC=C1 | C20H19N3O2S2
reactant | m-CPBA | 1.04 mmol, 224.3 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
reactant | sodium sulfite | 0.6 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-butyryloxymethyl-2-[(thieno[2, 3-c]pyridin7-yl)methylsulfinyl]benzimidazole | C(CCC)(=O)OCN1C(=NC2=C1C=CC=C2)S(=O)CC=2N=CC=C1C2SC=C1 | C20H19N3O3S2
